US06350771B1
Tert-butyl nitrite (1.25 g) was added to 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime (2.0 g) in tetrahydrofuran and stirred for 4.5 hours. After evaporation the resulting orange solid was triturated with carbon tetrachloride to give 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime (0.24 g) m.p. 239-240° C. Compound 20.

reactant | Tert-butyl nitrite | 1.25 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime | 2.0 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C=NO)S(=O)C | C12H9Cl2F3N4O2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carboxaldehyde oxime | 0.24 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)S(=O)C)C=NO | C12H8Cl2F3N3O2S
